US08119671B2
Process 2; Production of N-[amino(methylthio)methylidene]-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide
To a solution of 0.30 g of N-thiocarbamoyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide and 0.26 g of potassium carbonate in 10 mL of N,N-dimethylformamide, 0.107 g of methyl iodide was added and the resultant mixture was stirred at room temperature for 15 hours. After the completion of the reaction, the reaction mixture was diluted with 20 mL of water and the diluted reaction mixture was extracted with ethyl acetate (30 mL×1). The organic phase was dehydrated and dried with saturated brine and over anhydrous sodium sulfate, respectively, in this order, and the solvent was distilled off under reduced pressure. The resultant residue was purified by silica gel column chromatography eluting with ethyl acetate-hexane (1:3) to obtain 0.28 g of the objective substance as a colorless resin-state substance.

reactant | N-thiocarbamoyl-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide | 0.30 g | C(N)(=S)NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O | C19H14Cl2F3N3O2S
reactant | potassium carbonate | 0.26 g | C([O-])([O-])=O.[K+].[K+]
reactant | methyl iodide | 0.107 g | CI | CH3I
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | water | 20 mL | O | H2O
product | N-[amino(methylthio)methylidene]-4-[5-(3,5-dichlorophenyl)-5-trifluoromethyl-4,5-dihydroisoxazole-3-yl]-2-methyl benzoic acid amide | NC(=NC(C1=C(C=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=CC(=C1)Cl)Cl)C)=O)SC | C20H16Cl2F3N3O2S
